US04042587
3,3-Dimethyl-2,3,5,6,7,8,-hexahydro-1,2,4-benzo-triazine-4-oxide
78.4 parts of 1-morpholino-6-oximino-cyclohex-1-ene in 400 parts of ethanol are heated with 20 parts of hydrazine hydrate for 2 hours under reflux and 46.4 parts of acetone are added. The reaction mixture is kept for 20 hours at 78° C. After cooling and filtering the mixture, 42 parts of 3,3-dimethyl-2,3,5,6,7,8,-hexahydro-1,2,4-benzo-triazine-4-oxide of melting point 119° C. (after recrystallization from acetone) are obtained; yield, 58% of theory.

reactant | 1-morpholino-6-oximino-cyclohex-1-ene | O1CCN(CC1)C1=CCCCC1=NO | C10H16N2O2
reactant | ethanol | C(C)O | C2H6O
reactant | hydrazine hydrate | O.NN
solvent | acetone | CC(=O)C | C3H6O
product | 3,3-Dimethyl-2,3,5,6,7,8,-hexahydro-1,2,4-benzo-triazine-4-oxide | CC1(NN=C2C(=[N+]1[O-])CCCC2)C | C9H15N3O
